US07723330B2
Step D: Preparation of 3-(4-chlorobenzyl)-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4(3H)-one:
In a small round bottom flask, a solution of 3-(4-chlorobenzyl)-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one (0.17 g, 0.40 mmol) was heated in trifluoroacetic acid (5 mL) for 4 hours. The solvent was evaporated and the residue was dried under vacuum to afford the title compound as a white colored solid (0.1 g, 75%). LRMS (APCI pos) m/e 331.0 (M+1).

reactant | 3-(4-chlorobenzyl)-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one | 0.40 mmol, 0.17 g | ClC1=CC=C(CN2C=NC=C(C2=O)C2=CC(=C(C=C2)OCC2=CC=CC=C2)F)C=C1 | C24H18ClFN2O2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-chlorobenzyl)-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4(3H)-one | 0.1 g, 75% | ClC1=CC=C(CN2C=NC=C(C2=O)C2=CC(=C(C=C2)O)F)C=C1 | C17H12ClFN2O2
